US04587049
To a solution of 5.2 g (20 millimoles) of 4-cyanomethyl-1-(2,4-dimethoxy-benzyl)-2-azetidinone prepared according to the preceding paragraph in 40 ml of anhydrous ether and 40 ml of anhydrous dichloro methane 1.24 ml (21.2 millimoles) of ethanol are added and into the solution gaseous hydrogen chloride developed from 80 ml of concentrated aqueous hydrochloric acid is introduced under stirring and ice-cooling. The mixture is allowed to stand in a refrigerator overnight, the solution is evaporated to dryness and the residue is dissolved in about 25 ml of water. The pH of the aqueous solution is adjusted to 7 by adding a 10% aqueous sodium hydroxide solution and the solution thus obtained is allowed to stand overnight. The mixture becomes blue and the precipitated white crystals are filtered off. The aqueous filtrate is extracted five times with 10 ml of ether each. The united etheral phases are dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated. The residual oil (1 g) is separated by means of preparative thin layer chromatography (adsorbent: Kieselgel PF254+366 ; develop agent: n-heptane-acetone 7:3). Thus 0.501 g of ethyl [1-(2,4-dimethoxy-benzyl)-4-oxo-2-azetidinyl]-acetate is obtained. Yield: 8.2%.

reactant | 4-cyanomethyl-1-(2,4-dimethoxy-benzyl)-2-azetidinone | 20 millimoles, 5.2 g | C(#N)CC1CC(N1CC1=C(C=C(C=C1)OC)OC)=O | C14H16N2O3
reactant | dichloro methane | 21.2 millimoles, 40 ml | ClCCl | CH2Cl2
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
reactant | hydrochloric acid | 80 ml | Cl | ClH
reactant | ether | 40 ml | CCOCC | C4H10O
product | ethyl [1-(2,4-dimethoxy-benzyl)-4-oxo-2-azetidinyl]-acetate | 0.501 g, Yield: 8.2% | COC1=C(CN2C(CC2=O)CC(=O)OCC)C=CC(=C1)OC | C16H21NO5
